US06683111B2
3-{4-[2-(10,11-Dihydro-dibenzo[a,d]cyclohepten-5-ylidene)-ethoxy]-phenyl}-2-ethoxy-propionic acid
Ethyl 3-{4-[2-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidene)-ethoxy]-phenyl}-2-ethoxy-propionate (2.3 g, 53.7 mmol) was dissolved in ethanol (25 ml), 15% sodium hydroxide (7 ml) was added, and the mixture stirred at room temperature for 3 h and stood overnight. The solution was evaporated, water (30 ml) added to the residue, and the mixture acidified to pH 6 with acetic acid (1.6 ml). The product was extracted with dichloromethane (3×20 ml), and the dichloromethane solution washed with water (20 ml), brine (20 ml), dried (MgSO4) and evaporated. The residue was crystallised from a mixture of toluene (8 ml) and n-heptane (8 ml) to give the title compound; 1.60 g (74.4%).

reactant | Ethyl 3-{4-[2-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidene)-ethoxy]-phenyl}-2-ethoxy-propionate | 53.7 mmol, 2.3 g | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CCOC3=CC=C(C=C3)CC(C(=O)OCC)OCC | C30H32O4
reactant | sodium hydroxide | 7 ml | [OH-].[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 3-{4-[2-(10,11-Dihydro-dibenzo[a,d]cyclohepten-5-ylidene)-ethoxy]-phenyl}-2-ethoxy-propionic acid | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CCOC3=CC=C(C=C3)CC(C(=O)O)OCC | C28H28O4
